US07598383B2
2-(4-Bromo-2-fluorophenylamino)-6-oxo-1,6-dihydropyridine-3-carboxylic acid
Preparation of 2-(4-bromo-2-fluorophenylamino)-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester: To 2-(4-bromo-2-fluorophenylamino)-6-methoxy-nicotinic acid methyl ester (1.00 g, 2.82 mmol) in a sealed flask was added glacial acetic acid (10 mL) and HBr (10 mL, 48 wt % in H2O). The reaction mixture was stirred at 90-95° C. for 2 hours and then cooled to room temperature. The reaction mixture was diluted with EtOAc and washed with H2O, saturated NaHCO3, saturated NaCl, dried (Na2SO4) and concentrated under reduced pressure. The crude product was triturated twice with dichloromethane/methanol and the resulting solid was collected and dried under vacuum to yield 0.756 g (79%) pure desired product as a white solid.

reactant | 2-(4-bromo-2-fluorophenylamino)-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester | COC(=O)C1=C(NC(C=C1)=O)NC1=C(C=C(C=C1)Br)F | C13H10BrFN2O3
reactant | 2-(4-bromo-2-fluorophenylamino)-6-methoxy-nicotinic acid methyl ester | 2.82 mmol, 1.00 g | COC(C1=C(N=C(C=C1)OC)NC1=C(C=C(C=C1)Br)F)=O | C14H12BrFN2O3
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | HBr | 10 mL | Br | BrH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-Bromo-2-fluorophenylamino)-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 0.756 g, 79% | BrC1=CC(=C(C=C1)NC=1NC(C=CC1C(=O)O)=O)F | C12H8BrFN2O3
